US04289772
To 6,7-Dimethoxy-1-(4-oxopiperidino)phthalazine (11 g), methylamine hydrochloride (4.7 g) and potassium hydroxide flakes (1.1 g) in a methanol (200 ml) suspension was added sodium cyanoborohydride (1 g) in methanol (20 ml). The resulting mixture was stirred for 20 hours, after which a further portion of sodium cyanoborohydride (0.2 g) was added. After stirring for an additional 4 hours the mixture was treated with potassium hydroxide flakes (4 g) and evaporated in vacuo. The residue was partitioned between methylenechloride-2 N NaOH (20:10 ml), and the methylene chloride layer was washed with brine, dried (Na2CO3) and evaporated. The crude product was dissolved in the minimum quantity of methyl alcohol and treated with saturated methanolic oxalic acid to precipitate the oxalate salt. Recrystallization from methanol gave 6,7-dimethoxy-1-[4-(N-methylamino)piperidino]phthalazine oxalate (9 g).

reactant | 6,7-Dimethoxy-1-(4-oxopiperidino)phthalazine | 11 g | COC=1C=C2C=NN=C(C2=CC1OC)N1CCC(CC1)=O | C15H17N3O3
reactant | methylamine hydrochloride | 4.7 g | Cl.CN
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium cyanoborohydride | 1 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.2 g | C(#N)[BH3-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | methanol | 200 ml | CO | CH4O
product | 6,7-dimethoxy-1-[4-(N-methylamino)piperidino]phthalazine oxalate | 9 g | C(C(=O)O)(=O)O.COC=1C=C2C=NN=C(C2=CC1OC)N1CCC(CC1)NC | InChI=1S/C16H22N4O2.C2H2O4/c1-17-12-4-6-20(7-5-12)16-13-9-15(22-3)14(21-2)8-11(13)10-18-19-16;3-1(4)2(5)6/h8-10,12,17H,4-7H2,1-3H3;(H,3,4)(H,5,6)
